US07943622B2
2-chloro-6-methylbenzo[d]thiazole
t-Butyl nitrite (3.25 mL, 27.4 mmol) was added to a suspension of copper (II) chloride (2.95 g, 22.0 mmol) in CH3CN (31 mL). 6-Methyl-2-aminobenzothiazole (3.0 g, 18 mmol) was added portionwise over ˜30 min., and the reaction mixture was stirred at rt overnight. The reaction mixture was poured into 20% aqueous HCl (100 mL) and was extracted with EtOAc (3×). The combined extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was purified by column chromatography (0 to 10% EtOAc in Hexanes gradient), yielding 2.50 g (74%) of the title compound as a yellowish oil that solidified on standing. LC-MS: RT=9.71 min., [M+H]+=184.0.

reactant | t-Butyl nitrite | 27.4 mmol, 3.25 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 6-Methyl-2-aminobenzothiazole | 18 mmol, 3.0 g | CC1=CC2=C(N=C(S2)N)C=C1 | C8H8N2S
reactant | HCl | 100 mL | Cl | ClH
solvent | CH3CN | 31 mL | CC#N | C2H3N
catalyst | copper (II) chloride | 22.0 mmol, 2.95 g | [Cu](Cl)Cl
product | 2-chloro-6-methylbenzo[d]thiazole | 2.50 g, 74% | ClC=1SC2=C(N1)C=CC(=C2)C | C8H6ClNS
